US04695647
(i) Preparation of Ethyl-7-(1'-methoxycarbonyl-5-oxocyclopentyl)-heptanoate
A mixture of 10 g. of ethyl-7-bromoheptanoate and 5.9 g. of methyl-2-oxocyclopentylcarboxylate was refluxed for 20 hours in 100 ml. of dry acetone over 13 g. of anhydrous potassium carbonate in a nitrogen atmosphere. After cooling, the reaction mixture was filtered and the solvent removed at the rotovap. The residual oil was distilled on the Kugelrohr apparatus, with some unreacted bromoheptanoate first collected at 80° C., followed by distillation of product at 140° C. A total of 10.9 g. of product was obtained, with about 12-15% O-alkylated material.

reactant | ethyl-7-bromoheptanoate | C(C)OC(CCCCCCBr)=O | C9H17BrO2
reactant | methyl-2-oxocyclopentylcarboxylate | CC1(C(CCC1)=O)C(=O)[O-]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | Ethyl-7-(1'-methoxycarbonyl-5-oxocyclopentyl)-heptanoate | about 12-15% | C(C)OC(CCCCCCC1(CCCC1=O)C(=O)OC)=O | C16H26O5
